US08466168B2
14.i. rac-3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid ethyl ester
A solution of (3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-acetic acid ethyl ester (6.78 g; prepared in analogy to the corresponding methyl ester described in WO 2007/122258) in THF (30 mL) was added dropwise at −78° C. to a solution of LiHMDS (31 mL; 1M in THF) diluted in THF (20 mL). After stirring for 1 h at −78° C. a solution of N-(bromomethyl)phthalimide (7.40 g) in THF (30 mL) was added dropwise and the mixture was stirred for an additional 1 h at −78° C. and then overnight at rt. The yellow solution was quenched with 1N HCl (280 mL) and extracted with DCM. The combined org. layers were washed with H2O, dried over MgSO4, concentrated and purified by CC (Hept/EA 1:1), affording a light yellow foam (5.49 g; 51% yield).

reactant | (3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=NC2=CC=C(N=C12)OC)F)=O | C13H13FN2O3
reactant | LiHMDS | 1M, 31 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-(bromomethyl)phthalimide | 7.40 g | BrCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6BrNO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | rac-3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid ethyl ester | 51% yield | C(C)OC(C(CN1C(C2=CC=CC=C2C1=O)=O)C1=C(C=NC2=CC=C(N=C12)OC)F)=O | C22H18FN3O5
